US07781452B2
(1d) N-(6-methoxy-5-methyl-2-nitro-3-pyridinyl)acetamide
Anhydrous acetic acid (20 ml) was added to 6-methoxy-5-methyl-3-pyridineamine (1.18 g, 8.54 mmol) under ice cooling, and stirred at 0° C. for 20 minutes and at room temperature further for 1 hour. The reaction mixture was cooled at 0° C. again, fuming nitric acid (2 ml) was dropped thereto, and the mixture was stirred at 0° C. for 1 hour and 55 minutes and at room temperature further for 1 hour and 45 minutes. The reaction mixture was poured onto ice and adjusted to pH 9 with a 5N sodium hydroxide solution, extracted with ethyl acetate, and then the solvent was evaporated, thereby yielding the title compound (1.94 g) as a yellow solid crude product.

reactant | 6-methoxy-5-methyl-3-pyridineamine | 8.54 mmol, 1.18 g | COC1=C(C=C(C=N1)N)C | C7H10N2O
reactant | nitric acid | 2 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N-(6-methoxy-5-methyl-2-nitro-3-pyridinyl)acetamide | 1.94 g | COC1=C(C=C(C(=N1)[N+](=O)[O-])NC(C)=O)C | C9H11N3O4
